** sch_path: /foss/designs/thesis/thesis_hp/Designs/otas/3_kpex/postlayout_testbenches/tb_foldedcascode_nmos_ac.sch
**.subckt tb_foldedcascode_nmos_ac
Vss v_ss GND 0
Vdd v_dd GND 1.5
Vin v_in v_ss dc 0.7 ac 1
.save v(v_in)
I0 v_dd net1 14u
.save v(v_out)
x1 v_dd net1 v_out v_out v_in v_ss ota_final
**** begin user architecture code



*.include /foss/designs/thesis/thesis_hp/designs/otas/3_kpex/ota_final__ota_final/magic_CC/ota_final.pex.spice

*.include /foss/designs/thesis/thesis_hp/Designs/otas/1_schematics/simulations/ota_final.spice

.include /foss/designs/thesis/thesis_hp/Designs/otas/2_layout/ota_with_CMIM/lvs/FMD_QNC_foldedcascode_extracted.cir

*.include /foss/designs/thesis/TO_July2025_OTALED/OTALED/design_data/lvs/foldedcascode_pmos_extracted.cir





.temp 27
.control
option sparse
save all
op
write tb_foldedcascode_nmos_ac.raw
set appendwrite

ac dec 101 1k 1G
write tb_foldedcascode_nmos_ac.raw
plot 20*log10(v_out)



meas ac dcgain MAX vmag(v_out) FROM=10 TO=10k
let f3db = dcgain/sqrt(2)
meas ac fbw WHEN vmag(v_out)=f3db FALL=1
let gainerror=(dcgain-1)/1
print dcgain
print fbw
print gainerror



plot 180/pi*ph(v_out) vs frequency

noise v(v_out) Vin dec 101 1k 100MEG
print onoise_total

.endc


 .lib cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.include /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/sg13g2_bondpad.lib
.include /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/sg13g2_esd.lib

**** end user architecture code
**.ends
.GLOBAL GND
.end
